US04810713
4-(Diphenylmethyl)-1-(4-phenoxybutyl)piperidine fumarate [1:1]
A solution of 6.99 g (0.0278 mole) of 4-diphenylmethylpiperidine, 6.64 g (0.029 mole) of (4-bromobutoxy)benzene and 5 g (0.060 mole) of sodium bicarbonate in 400 ml of 1-butanol was refluxed for 11 hr. The solvent was removed in vacuo, and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride solution was dried over magnesium sulfate, and the solvent was removed in vacuo to give an oil, the free base of the title compound. The base was dissolved in 500 ml of ether, and a small amount of solid was filtered from the solution. To the filtrate was added a solution of 3.2 g (0.0276 mole) of fumaric acid in 60 ml of methanol. A white precipitate was collected to give 7.97 g (55.7%) of white crystalline solid, m.p. 146°-147° C.

reactant | 4-diphenylmethylpiperidine | 0.0278 mole, 6.99 g | C1(=CC=CC=C1)C(C1CCNCC1)C1=CC=CC=C1 | C18H21N
reactant | (4-bromobutoxy)benzene | 0.029 mole, 6.64 g | BrCCCCOC1=CC=CC=C1 | C10H13BrO
reactant | sodium bicarbonate | 0.060 mole, 5 g | C([O-])(O)=O.[Na+]
reactant | 1-butanol | 400 ml | C(CCC)O | C4H10O
product | 4-(Diphenylmethyl)-1-(4-phenoxybutyl)piperidine fumarate | C(\C=C\C(=O)O)(=O)O.C1(=CC=CC=C1)C(C1CCN(CC1)CCCCOC1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H33NO.C4H4O4/c1-4-12-24(13-5-1)28(25-14-6-2-7-15-25)26-18-21-29(22-19-26)20-10-11-23-30-27-16-8-3-9-17-27;5-3(6)1-2-4(7)8/h1-9,12-17,26,28H,10-11,18-23H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
